US05567413
(3,4,5,6-Tetrahydroxytetrahydropyran-2-ylmethyl) 10,12-tricosadiynoate
1,2;3,4-di-O-isopropylidene-D-galactopyranose (2.6 g, 10 mmol) and 10,12-tricosadiynoic acid (3.5 g, 10 mmol) were dissolved in 25 ml methylene chloride. 1-Ethyl-3(3-dimethylaminopropyl)carbodiimide (2 g, >10 mmol) was added neat. The reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted to 100 ml, extracted with water (2×25 ml), dried over MgSO4 and the solvent was removed in vacuo. The crude product was treated with trifluoroacetic acid (10 ml) at room temperature for 30 minutes, evaporated in vacuo, and purified by straight phase chromatography on a CHROMATOTRON, eluted with methanol/chloroform (5:95). The product was characterised by NMR.

reactant | 1,2;3,4-di-O-isopropylidene-D-galactopyranose | 10 mmol, 2.6 g | CC1(O[C@H]2[C@H](O[C@H]3[C@@H]([C@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
reactant | 10,12-tricosadiynoic acid | 10 mmol, 3.5 g | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)O | C23H38O2
reactant | 1-Ethyl-3(3-dimethylaminopropyl)carbodiimide | >10 mmol, 2 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | (3,4,5,6-Tetrahydroxytetrahydropyran-2-ylmethyl) 10,12-tricosadiynoate | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)OCC1OC(C(C(C1O)O)O)O | C29H48O7
